US05464865
By the method outlined in example 9 above, 3-(2,2-dimethoxyethyl)aniline is prepared from 3-nitrobenzaldehyde. To a solution of this material (2.13 g) in dichloromethane (25 ml) is added triethylamine (1.7 ml). The solution is cooled in an ice bath, and octanoyl chloride (2.0 ml) is added dropwise with stirring. After 10 min, the solvent is removed in vacuo and the residue is taken up in ether, filtered, and washed with aqueous sodium bicarbonate. The solution is dried, filtered, and concentrated to leave N-(3-(2,2-dimethoxyethyl)phenyl)octanamide (3.4 g) as a light brown oil. By the method of example 2 above, this is converted into the title compound, mp 128°-130° after recrystallization from dichloromethane.

reactant | 3-(2,2-dimethoxyethyl)aniline | COC(CC=1C=C(N)C=CC1)OC | C10H15NO2
reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | octanoyl chloride | 2.0 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-(3-(2,2-dimethoxyethyl)phenyl)octanamide | 3.4 g | COC(CC=1C=C(C=CC1)NC(CCCCCCC)=O)OC | C18H29NO3
